US04524071
2-[[4-[[5-[(Dimethylamino)methyl]-2-furanyl]methoxy]butyl]amino]-5-[(3-pyridinyl)methyl]-4(3H)-pyrimidinone
A mixture of 5-[(4-aminobutoxy)methyl]-N,N-dimethyl-2-furanmethanamine (1 g) and 2-methylthio)-5-[(3-pyridinyl)methyl]-4(3H)-pyrimidinone (1 g) was heated at 140° for 7 h. Column chromatography (silica/methanol) of the residue yielded the title compound (0.95 g) as a yellow oil.

reactant | 5-[(4-aminobutoxy)methyl]-N,N-dimethyl-2-furanmethanamine | 1 g | NCCCCOCC1=CC=C(O1)CN(C)C | C12H22N2O2
reactant | 5-[(3-pyridinyl)methyl]-4(3H)-pyrimidinone | 1 g | N1=CC(=CC=C1)CC=1C(NC=NC1)=O | C10H9N3O
product | 2-[[4-[[5-[(Dimethylamino)methyl]-2-furanyl]methoxy]butyl]amino]-5-[(3-pyridinyl)methyl]-4(3H)-pyrimidinone | 0.95 g | CN(C)CC1=CC=C(O1)COCCCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C22H29N5O3
